US05198567
Third step: preparation of 2-acetylbenzonorbornene (formula XIV with R"'=CH3)
30 cm3 of acetyl chloride are added to a solution of 30 g of benzonorbornene in 400 cm3 of carbon disulphide and then 10.5 g of anhydrous aluminum chloride are added gradually in small quantities over approximately 2 hours. At this stage, the complete conversion of the starting product is checked by thin-layer chromatography. The reaction mixture is then poured into two litres of ice water and then neutralized with sodium bicarbonate. After three extractions with ether, the ether phase is dried over sodium sulphate and then concentrated. 38 g of an orange oil which corresponds to the expected product are obtained.

reactant | acetyl chloride | 30 cm3 | C(C)(=O)Cl | C2H3ClO
reactant | benzonorbornene | 30 g | C12C3=C(C(CC1)C2)C=CC=C3 | C11H12
reactant | aluminum chloride | 10.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | carbon disulphide | 400 cm3 | C(=S)=S | CS2
product | 2-acetylbenzonorbornene | C(C)(=O)C1CC2C3=C(C1C2)C=CC=C3 | C13H14O
